US08604069B2
(A-82-16) tert-Butyl 3-[2-(tert-butyldiphenylsilanyloxy)ethyl]-6-(3-isobutylcyclobutyl)-4-methoxyimino-5-hexynoate
tert-Butyl 3-[2-(tert-butyldiphenylsilanyloxy)ethyl]-6-(3-isobutylcyclobutyl)-4-oxo-5-hexynoate (58.1 g) and methanol (300 mL) were mixed. To the mixture were added sodium sulfate (21.55 g), pyridine (30 mL) and O-methylhydroxylammonium chloride (12.67 g) at ice temperature. The mixture was stirred at RT overnight and the resultant precipitate was removed by filtration. After concentration of the filtrate in vacuo, toluene (350 mL) was poured into the residue. The mixture was washed with 1 N hydrochloric acid (300 mL), water (300 mL) and brine (150 mL), then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo. After an addition of silica gel (80 g) and ethyl acetate/hexane=1/20 (600 mL) to the residue, the mixture was stirred at RT for 1 hr. The silica gel was filtered off and the filtrate was concentrated in vacuo to give the title compound (55.54 g) as a crude product.

reactant | tert-Butyl 3-[2-(tert-butyldiphenylsilanyloxy)ethyl]-6-(3-isobutylcyclobutyl)-4-oxo-5-hexynoate | 58.1 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C(C#CC1CC(C1)CC(C)C)=O | C36H50O4Si
reactant | methanol | 300 mL | CO | CH4O
reactant | sodium sulfate | 21.55 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | O-methylhydroxylammonium chloride | 12.67 g | [Cl-].CO[NH3+]
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-[2-(tert-butyldiphenylsilanyloxy)ethyl]-6-(3-isobutylcyclobutyl)-4-methoxyimino-5-hexynoate | 55.54 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C(C#CC1CC(C1)CC(C)C)=NOC | C37H53NO4Si
